hisimhv2 dense-terminal device-eval microbenchmark
Vd d 0 2.0
Rdummy d 0 1e9
Vg g 0 1.2
Vs s 0 0.05
Vb b 0 -0.1
.model NHV nmos level=73 version=2.2
+ CORSRD=3
+ CORG=0
+ COIPRV=1
+ COPPRV=1
+ COADOV=1
+ COISUB=0
+ COIIGS=0
+ COGIDL=0
+ COOVLP=1
+ COOVLPS=0
+ COFLICK=0
+ COISTI=0
+ CONQS=0
+ COTHRML=0
+ COIGN=0
+ CODFM=0
+ COQOVSM=1
+ CORBNET=0
+ COSELFHEAT=0
+ COSUBNODE=0
+ COSYM=0
+ COTEMP=0
+ CORDRIFT=1
+ COERRREP=1
+ VERSION=2
+ VMAX=1e+07
+ VMAXT1=0
+ VMAXT2=0
+ BGTMP1=9.025e-05
+ BGTMP2=1e-07
+ EG0=1.1785
+ TOX=7e-09
+ XLD=0
+ RDOV11=0
+ RDOV12=1
+ RDOV13=1
+ RDSLP1=0
+ RDICT1=1
+ RDSLP2=1
+ RDICT2=0
+ SUBLD1=0
+ SUBLD1L=0
+ SUBLD1LP=1
+ SUBLD2=0
+ XPDV=0
+ XPVDTH=0
+ XPVDTHG=0
+ DDLTMAX=10
+ DDLTSLP=0
+ DDLTICT=10
+ VFBOVER=-0.5
+ NOVER=1e+17
+ NOVERS=0
+ XWD=0
+ XL=0
+ XW=0
+ SAREF=1e-06
+ SBREF=1e-06
+ LL=0
+ LLD=0
+ LLN=0
+ WL=0
+ WL1=0
+ WL1P=1
+ WL2=0
+ WL2P=1
+ WLD=0
+ WLN=0
+ RSH=0
+ RSHG=0
+ XQY=0
+ XQY1=0
+ XQY2=2
+ RS=0
+ RD=0.01
+ VFBC=-1
+ VBI=1.1
+ NSUBC=3e+17
+ PARL2=1e-08
+ LP=1.5e-08
+ NSUBP=1e+18
+ NSUBP0=0
+ NSUBWP=1
+ SCP1=1
+ SCP2=0
+ SCP3=0
+ SC1=1
+ SC2=0
+ SC3=0
+ SC4=0
+ PGD1=0
+ PGD2=1
+ PGD4=0
+ NDEP=1
+ NDEPL=0
+ NDEPLP=1
+ NINV=0.5
+ MUECB0=1000
+ MUECB1=100
+ MUEPH0=0.3
+ MUEPH1=20000
+ MUEPHW=0
+ MUEPWP=1
+ MUEPHL=0
+ MUEPLP=1
+ MUEPHS=0
+ MUEPSP=1
+ VTMP=0
+ WVTH0=0
+ MUESR0=2
+ MUESR1=6e+14
+ MUESRL=0
+ MUESRW=0
+ MUESWP=1
+ MUESLP=1
+ MUETMP=1.5
+ BB=2
+ SUB1=10
+ SUB2=25
+ SVGS=0.8
+ SVBS=0.5
+ SVBSL=0
+ SVDS=0.8
+ SLG=3e-08
+ SUB1L=0.0025
+ SUB2L=2e-06
+ FN1=0
+ FN2=0.00017
+ FN3=0
+ FVBS=0.012
+ SVGSL=0
+ SVGSLP=1
+ SVGSWP=1
+ SVGSW=0
+ SVBSLP=1
+ SLGL=0
+ SLGLP=1
+ SUB1LP=1
+ NSTI=1e+17
+ WSTI=0
+ WSTIL=0
+ WSTILP=1
+ WSTIW=0
+ WSTIWP=1
+ SCSTI1=0
+ SCSTI2=0
+ VTHSTI=0
+ VDSTI=0
+ MUESTI1=0
+ MUESTI2=0
+ MUESTI3=1
+ NSUBPSTI1=0
+ NSUBPSTI2=0
+ NSUBPSTI3=1
+ LPEXT=1e-50
+ NPEXT=5e+17
+ SCP21=0
+ SCP22=0
+ BS1=0
+ BS2=0.9
+ TPOLY=2e-07
+ CGBO=0
+ JS0=5e-07
+ JS0SW=0
+ NJ=1
+ NJSW=1
+ XTI=2
+ CJ=0.0005
+ CJSW=5e-10
+ CJSWG=5e-10
+ MJ=0.5
+ MJSW=0.33
+ MJSWG=0.33
+ PB=1
+ PBSW=1
+ PBSWG=1
+ XTI2=0
+ CISB=0
+ CVB=0
+ CTEMP=0
+ CISBK=0
+ DIVX=0
+ CLM1=0.05
+ CLM2=2
+ CLM3=1
+ CLM5=1
+ CLM6=0
+ VOVER=0.3
+ VOVERP=0.3
+ WFC=0
+ NSUBCW=0
+ NSUBCWP=1
+ QME1=0
+ QME2=1
+ QME3=0
+ VOVERS=0
+ VOVERSP=0
+ GIDL1=2
+ GIDL2=3e+07
+ GIDL3=0.9
+ GIDL4=0
+ GIDL5=0.2
+ GLEAK1=50
+ GLEAK2=1e+07
+ GLEAK3=0.06
+ GLEAK4=4
+ GLEAK5=7500
+ GLEAK6=0.25
+ GLEAK7=1e-06
+ GLPART1=0.5
+ GLKSD1=1e-15
+ GLKSD2=1000
+ GLKSD3=-1000
+ GLKB1=5e-16
+ GLKB2=1
+ GLKB3=0
+ EGIG=0
+ IGTEMP2=0
+ IGTEMP3=0
+ VZADD0=0.01
+ PZADD0=0.005
+ NFTRP=1e+10
+ NFALP=1e-19
+ CIT=0
+ FALPH=1
+ KAPPA=3.9
+ VDIFFJ=0.0006
+ DLY1=1e-10
+ DLY2=0.7
+ DLY3=8e-07
+ TNOM=27
+ OVSLP=2.1e-07
+ OVMAG=0.6
+ GBMIN=1e-12
+ RBPB=50
+ RBDB=50
+ RBSB=50
+ IBPC1=0
+ IBPC1L=0
+ IBPC1LP=-1
+ IBPC2=0
+ MPHDFM=-0.3
+ PTL=0
+ PTP=3.5
+ PT2=0
+ PTLP=1
+ GDL=0
+ GDLP=0
+ GDLD=0
+ PT4=0
+ PT4P=1
+ RDVG11=0
+ RDVG12=100
+ RTH0=0.1
+ CTH0=1e-07
+ POWRAT=1
+ TCJBD=0
+ TCJBS=0
+ TCJBDSW=0
+ TCJBSSW=0
+ TCJBDSWG=0
+ TCJBSSWG=0
+ DLYOV=0
+ QDFTVD=1
+ XLDLD=1e-06
+ RDVD=0.07
+ RD20=0
+ RD21=1
+ RD22=0
+ RD22D=0
+ RD23=0.005
+ RD24=0
+ RD25=0
+ RDVDL=0
+ RDVDLP=1
+ RDVDS=0
+ RDVDSP=1
+ RD23L=0
+ RD23LP=1
+ RD23S=0
+ RD23SP=1
+ RDS=0
+ RDSP=1
+ RDTEMP1=0
+ RDTEMP2=0
+ RDVDTEMP1=0
+ RDVDTEMP2=0
+ RTH0W=0
+ RTH0WP=1
+ CVDSOVER=0
+ NINVD=0
+ NINVDW=0
+ NINVDWP=1
+ NINVDT1=0
+ NINVDT2=0
+ RDVB=0
+ RTH0NF=0
+ RTHTEMP1=0
+ RTHTEMP2=0
+ PRATTEMP1=0
+ PRATTEMP2=0
+ RDVSUB=1
+ RDVDSUB=0.3
+ DDRIFT=1e-06
+ VBISUB=0.7
+ NSUBSUB=1e+15
+ RDRMUE=1000
+ RDRVMAX=1e+07
+ RDRMUETMP=0
+ RDRVTMP=0
+ RDRDJUNC=1e-06
+ RDRCX=0.1
+ RDRCAR=1e-08
+ RDRDL1=0
+ RDRDL2=0
+ RDRVMAXW=1.02
+ RDRVMAXWP=1
+ RDRVMAXL=1.02
+ RDRVMAXLP=1
+ RDRMUEL=1.02
+ RDRMUELP=1
+ RDRQOVER=3e5
+ SHEMAX=500
.options acct
.dc Vg 0.2 1.4 0.00004
.print dc i(Vd)
.end
